US04906627
Preparation of 2-t-butyl-4-chloro-5-[2'-(2",6"-dimethyl-4"-benzoylphenoxy)ethylthio]-3-(2H)-pyridazinone (Compound No. 465)
In 50 ml of N,N-dimethylformamide were dissolved 6.6 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 10 g of 2-(2',6'-dimethyl-4'-benzoylphenoxy)ethyl bromide, and thereto was added 5 g of anhydrous sodium carbonate. The solution was stirred at room temperature for seventeen hours. The resulting solution was poured into water and extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate and freed of solvent by distillation under reduced pressure to give a crude product. The crude product thus obtained was purified by means of column chromatography (on silica gel, eluting with benzene) and crystallization (from 50 ml of n-hexanediethyl ether (4:1)) to give 13.3 g of the intended compound. m.p. 94.6°~96.2° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 6.6 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 2-(2',6'-dimethyl-4'-benzoylphenoxy)ethyl bromide | 10 g | CC1=C(OCCBr)C(=CC(=C1)C(C1=CC=CC=C1)=O)C | C17H17BrO2
reactant | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[2'-(2",6"-dimethyl-4"-benzoylphenoxy)ethylthio]-3-(2H)-pyridazinone | 13.3 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCCOC1=C(C=C(C=C1C)C(C1=CC=CC=C1)=O)C | C25H27ClN2O3S
